US08754215B2
(b) Preparation of N-benzyl-2,2-dimethoxyethanamine
Benzylamine (0.927 kg), chloroacetaldehydedimethylacetal (0.909 kg), sodium hydroxide solution (0.35 kg) in 2.72 L of water were charged into the flask under stirring at 25-30° C. for 10-15 min. Reaction mass was heated to 100-102° C. under stirring for 30 hrs. After completion of reaction, reaction mass was allowed to settle for 30 min. Two layers are separated and upper product layer was collected, distilled under high vacuum.

reactant | Benzylamine | 0.927 kg | C(C1=CC=CC=C1)N | C7H9N
reactant | chloroacetaldehydedimethylacetal | 0.909 kg | COC(CCl)OC | C4H9ClO2
reactant | sodium hydroxide | 0.35 kg | [OH-].[Na+]
solvent | water | 2.72 L | O | H2O
product | N-benzyl-2,2-dimethoxyethanamine | C(C1=CC=CC=C1)NCC(OC)OC | C11H17NO2
